US06635657B1
A. 4-(N,N-Dimethylaminosulfonyl)nitrobenzene
To a stirring solution of dimethylamine (180 mL, 40% in water, 1.57 mol) in methanol (180 mL) at 0° C., was slowly added 4-nitrobenzenesulfonyl chloride (69.5 g, 314 mmol). After complete addition, the cold bath was removed; and, after stirring overnight, the mixture was filtered and the precipitate was washed with water and dried in vacuo to give 68 g (94%) of tan solid.

reactant | dimethylamine | 1.57 mol, 180 mL | CNC | C2H7N
reactant | 4-nitrobenzenesulfonyl chloride | 314 mmol, 69.5 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | methanol | 180 mL | CO | CH4O
product | 4-(N,N-Dimethylaminosulfonyl)nitrobenzene | 68 g, 94% | CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C8H10N2O4S
